US07449481B2
To a solution of 4-chlorobenzenethiol (5.78 g; 40 mmol) in anhydrous acetone (50 mL) was added potassium carbonate (5.52 g, 40 mmol) and dropwise at room temperature 2-bromo-1,1-dimethoxy-ethane (4.7 mL, 40 mmol). After 24 h of stirring, the precipitate was filtered, the filtrate concentrated, the residue diluted with water and diethyl ether (150 mL), the organic layer washed successively with water (60 mL), NaOH 4N (30 mL) and water (60 mL), dried over Na2SO4 and concentrated to give 1-chloro-4-(2,2-dimethoxy-ethylsulfanyl)-benzene (compound PRE9) (9.12 g; orange oil) (Yield=98%).

reactant | 4-chlorobenzenethiol | 40 mmol, 5.78 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 40 mmol, 5.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-1,1-dimethoxy-ethane | 40 mmol, 4.7 mL | BrCC(OC)OC | C4H9BrO2
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 1-chloro-4-(2,2-dimethoxy-ethylsulfanyl)-benzene | 9.12 g, Yield=98% | ClC1=CC=C(C=C1)SCC(OC)OC | C10H13ClO2S
